US06191134B1
5-Methyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one
To a solution of (2-amino-6-methyl-phenyl)-methanol (2.74 g, 20 mmol) and triethylamine (4.04 g, 40 mmol) in THF (150 mL), phosgene (12.5% solution in toluene, 17.42 g, 22 nmol) was added dropwise at 0° C. Reaction mixture was allowed to warm to room temperature and stirred for 16 hours. Water (150 mL) was added under stirring, followed by EtOAc (2×100 mL). EtOAc extracts were washed with water and brine and dried over MgSO4. The product (buff solid) was crystallized from EtOAc:pet. ether mixture.

reactant | (2-amino-6-methyl-phenyl)-methanol | 20 mmol, 2.74 g | NC1=C(C(=CC=C1)C)CO | C8H11NO
reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | 22 nmol, 17.42 g | C(=O)(Cl)Cl | CCl2O
reactant | Water | 150 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-Methyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one | CC1=CC=CC=2NC(OCC21)=O | C9H9NO2
